US08357693B2
2-(3-fluoro-4-(phenyl)phenyl)-6-hydroxy-7-methoxyquinazolin-4(3H)-one
A mixture of 2-(3-fluoro-4-(phenyl)phenyl)-6,7-dimethoxyquinazolin-4(3H)-one (3.83 g, 10.2 mmol) and methionine (2.1 g, 14.1 mmol) in methanesulfonic acid was heated 110° C. for 4 h. Additional methionine (0.75 g) was added and heating was continued for another 1.5 h. The mixture was allowed to cool to RT and was poured into ice-water (300 mL). A solid separated out, which was collected via filtration. The solid was suspended in sat. NaHCO3 and the after the effervescence subsided the solid was again collected via filtration. The solid was washed with water and EtOH to give the desired product 2-(3-fluoro-4-(phenyl)phenyl)-6-hydroxy-7-methoxyquinazolin-4(3H)-one (3.2 g, 8.83 mmol, 87%). HPLC retention time 7.06 mins.

reactant | 2-(3-fluoro-4-(phenyl)phenyl)-6,7-dimethoxyquinazolin-4(3H)-one | 10.2 mmol, 3.83 g | FC=1C=C(C=CC1C1=CC=CC=C1)C1=NC2=CC(=C(C=C2C(N1)=O)OC)OC | C22H17FN2O3
reactant | methionine | 14.1 mmol, 2.1 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | methionine | 0.75 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
solvent | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
product | 2-(3-fluoro-4-(phenyl)phenyl)-6-hydroxy-7-methoxyquinazolin-4(3H)-one | 8.83 mmol, 3.2 g, 87% | FC=1C=C(C=CC1C1=CC=CC=C1)C1=NC2=CC(=C(C=C2C(N1)=O)O)OC | C21H15FN2O3
